US07951828B1
Step 2: Production of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole-3-yl]-2-methyl-N-methyl-N-(5-pyrimidinyl)benzoic acid amide
In a solution of 0.25 g of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methyl-N-(5-pyrimidinyl)benzoic acid amide in 4 mL of N,N-dimethylformamide, 0.36 g of methyl iodide and 0.35 g of potassium carbonate were added at room temperature with stirring, and stirred at 80° C. for 1 hour. After the completion of the reaction, 10 mL of water was added in the reaction mixture, and extracted with ethyl acetate (20 mL×1), the organic phase was dehydrated with and dried over saturated sodium chloride aqueous solution and then anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified with silica gel column chromatography that was eluated with ethyl acetate-hexane (1:2) to obtain 0.09 g of the aimed product as white crystal.

reactant | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methyl-N-(5-pyrimidinyl)benzoic acid amide | 0.25 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)NC=2C=NC=NC2)C=C1)C)C(F)(F)F | C22H15Cl2F3N4O2
reactant | methyl iodide | 0.36 g | CI | CH3I
reactant | potassium carbonate | 0.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 10 mL | O | H2O
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole-3-yl]-2-methyl-N-methyl-N-(5-pyrimidinyl)benzoic acid amide | 0.09 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)N(C=2C=NC=NC2)C)C=C1)C)C(F)(F)F | C23H17Cl2F3N4O2
